US05198014
A solution of 13.6 grams (0.044 mole) of 5-bromomethyl-4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazole in 41 mL of pyridine was stirred at ambient temperature for three hours. After this time, the reaction mixture was slurried in 350 mL of diethyl ether and filtered. The filter cake was washed with additional diethyl ether. The filter cake was dried, yielding 11.9 grams of 1-[4-cyano-2-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-ylmethyl]pyridinium bromide. The nmr spectrum was consistent with the proposed structure.

reactant | 5-bromomethyl-4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazole | 0.044 mole, 13.6 grams | BrCC1=C(C=NN1C1=NC=C(C=C1Cl)C(F)(F)F)C#N | C11H5BrClF3N4
reactant | diethyl ether | 350 mL | C(C)OCC | C4H10O
solvent | pyridine | 41 mL | N1=CC=CC=C1 | C5H5N
product | 1-[4-cyano-2-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-ylmethyl]pyridinium bromide | 11.9 grams | [Br-].C(#N)C=1CN(NC1C[N+]1=CC=CC=C1)C1=NC=C(C=C1Cl)C(F)(F)F | InChI=1S/C16H12ClF3N5.BrH/c17-13-6-12(16(18,19)20)8-22-15(13)25-9-11(7-21)14(23-25)10-24-4-2-1-3-5-24;/h1-6,8,23H,9-10H2;1H/q+1;/p-1
